### PR TITLE
feat(ErdosProblems): 663

### LINKED ISSUE #863: Erdős Problem 663
### What is the conjecture
    
https://www.erdosproblems.com/663

  Let $q(n,k)$ denote the least prime which does not divide $\prod_{1\leq i\leq k}(n+i)$. Is it true that, if $k$ is fixed and $n$ is sufficiently large, we have
$$q(n,k)<(1+o(1))\log n?$$
  

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by BIGfoot496**
fixes #863 

I'm honestly not quite sure what is meant by < (1+o(1)) * log n. I decided it means <= eventually regardless of base

### CODE REVIEW

File: FormalConjectures/ErdosProblems/663.lean [hunk 1]
```diff
@@ -0,0 +1,61 @@
...
+    have h : ∃ q > 1, (∀ i ∈ Finset.Icc (n+1) (n+k), q.Coprime i) := by
+        use (Nat.exists_infinite_primes (n+k+1)).choose
+        have hspec := (Nat.exists_infinite_primes (n+k+1)).choose_spec
+        simp only [Finset.mem_Icc]
+        constructor
+        linarith
+        intros
+        exact Nat.coprime_of_lt_prime (by linarith) (by linarith) hspec.right
+    Nat.find h
+    else 0
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/663.lean]: You should be able to phrase this in a cleaner way using `sInf`.

File: FormalConjectures/ErdosProblems/663.lean [hunk 2]
```diff
@@ -0,0 +1,61 @@
...
+
+/--
+Is it true that, if $k>1$ is fixed and $n$ is sufficiently large, we have
+$q(n,k) < (1 + o(1)) \log n$?
+-/
+@[category research open, AMS 11]
+theorem erdos_663 :
+    answer(sorry) ↔ ∀ k > 1, ∀ b : ℕ, q (k := k) ≤ᶠ[.atTop] Nat.log b := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/663.lean]:
```suggestion
    answer(sorry) ↔ ∀ k > 1, q (k := k) ≤ᶠ[.atTop] (Real.log ·) := by
```
It should be the natural logarithm. For this to compile `q` should take values in the reals.

Also (1 + o(1)) means some large enough constant `C > 0`, so this should be included as well.

**Review by callesonne — COMMENTED** [review]
Thanks for the contribution! Here are some initial comments :)

**Comment by BIGfoot496** [comment]
I changed Find to sInf. It is indeed cleaner now, but the function became noncomputable. Is it a problem or does nobody care?

File: FormalConjectures/ErdosProblems/663.lean [hunk 3]
```diff
@@ -0,0 +1,53 @@
...
+namespace Erdos663
+
+/--
+Let $q(n,k)$ denote the least number coprime to all numbers in $[n+1, n+k]$.
+-/
+
+noncomputable def q (n k : ℕ) : ℕ :=
+    if k > 0 ∧ n > 0
+    then sInf {q > 1 | ∀ i ∈ Finset.Icc (n+1) (n+k), q.Coprime i}
+    else 0
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/663.lean:34]: This is equal to what you wrote
```suggestion
  if n > 0
  then sInf {q > 1 | ∀ i ∈ Finset.Icc (n+1) (n+k), q.Coprime i}
  else 0
```

File: FormalConjectures/ErdosProblems/663.lean [hunk 4]
```diff
@@ -0,0 +1,53 @@
...
+
+/--
+Is it true that, if $k>1$ is fixed and $n$ is sufficiently large, we have
+$q(n,k) < (1 + o(1)) \log n$?
+-/
+@[category research open, AMS 11]
+theorem erdos_663 :
+    answer(sorry) ↔ ∀ k > 1, ∃ C > 0, ∀ᶠ n in .atTop, q k n < C * (Real.log ·) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/663.lean:42]: You should formulate this using a function that tends to 0 in place of the o(1) term

**Comment by mo271** [comment]
@BIGfoot496 are you still working on this?

**Comment by mo271** [comment]
closing due to inactivity, feel free to re-open
